US08426411B2
1-Methylpiperazine (0.160 mL, 1.44 mmol) was added to a solution of 2-(methylsulfonyl)-4-(tributylstannyl)pyrimidine (0.250 g, 0.481 mmol, synthesized as described in Majeed, A. J., et al. Tetrahedron 1989, 45, 993-1006) and 1,4-dioxane (1.0 mL) under nitrogen. After about 2 h, the solution was warmed to about 50° C. After about 30 min, the solution was warmed to about 80° C. After about 30 min, a reflux condenser was attached and the solution was warmed to about 100° C. After about 16 h, the brown solution was allowed to cool to ambient temperature. Water (5 mL) was added. The mixture was extracted with EtOAc (2×5 mL). The combined organics were dried over anhydrous Na2SO4, filtered, and concentrated. The residue was purified by silica gel chromatography eluting with a gradient of 2-10% MeOH/DCM to afford 2-(4-methylpiperazin-1-yl)-4-(tributylstannyl)pyrimidine (0.127 g, 56%): 1H NMR (400 MHz, CDCl3) δ 8.07 (d, J=4.6 Hz, 1H), 6.63 (d, J=4.6 Hz, 1H), 3.98-3.82 (m, 4H), 2.63-2.48 (m, 4H), 2.40 (s, 3H), 1.70-1.43 (m, 6H), 1.42-1.20 (m, 6H), 1.18-0.97 (m, 6H), 0.88 (t, J=7.3 Hz, 9H).

reactant | 1-Methylpiperazine | 1.44 mmol, 0.160 mL | CN1CCNCC1 | C5H12N2
reactant | 2-(methylsulfonyl)-4-(tributylstannyl)pyrimidine | CS(=O)(=O)C1=NC=CC(=N1)[Sn](CCCC)(CCCC)CCCC
reactant | 1,4-dioxane | 1.0 mL | O1CCOCC1 | C4H8O2
solvent | Water | 5 mL | O | H2O
product | 2-(4-methylpiperazin-1-yl)-4-(tributylstannyl)pyrimidine | 0.127 g, 56% | CN1CCN(CC1)C1=NC=CC(=N1)[Sn](CCCC)(CCCC)CCCC | InChI=1S/C9H13N4.3C4H9.Sn/c1-12-5-7-13(8-6-12)9-10-3-2-4-11-9;3*1-3-4-2;/h2-3H,5-8H2,1H3;3*1,3-4H2,2H3;
